US04808620
A mixture of 1.8 g of 4-(2-chloro-6-methylnicotinoyl)-2,6-di-tertiary butylphenol and 0.7 g of methylhydrazine is reacted in a similar manner as Example 1 and the resulting product is recrystallized from ethanol to give 1.6 g of 3-(3,5-di-tertiary butyl-4-hydroxyphenvl)-1,6-dimethyl-1H-pyrazolo[3,4-b]pyridine as white crystals, melting at 178°-181° C.

reactant | 4-(2-chloro-6-methylnicotinoyl)-2,6-di-tertiary butylphenol | 1.8 g | ClC1=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC(=N1)C | C21H26ClNO2
reactant | methylhydrazine | 0.7 g | CNN | CH6N2
product | 3-(3,5-di-tertiary butyl-4-hydroxyphenvl)-1,6-dimethyl-1H-pyrazolo[3,4-b]pyridine | 1.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NN(C2=NC(=CC=C21)C)C | C22H29N3O
